US08865682B2
Preparation of methyl 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate
To 30 mL of 1,4-dioxane, was added the following reagents: (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-6-fluoro-1,3-dihydro-2H-indol-2-one (500 mg, 1.54 mmol), 4-methoxycarbonylphenylboronic acid (333 mg, 1.85 mmol), PdCl2(PPh3)2 (54 mg, 0.077 mmol), 1M Na2CO3 aqueous solution (6.2 mL, 6.2 mmol). The mixture was heated at 80° C. under N2 for 1 hour, cooled to room temperature and poured into 200 mL of water. The brown precipitates were filtered, washed with water and dried to give the crude product. Purification through silica gel column with 1-5% MeOH/CHCl3 led to methyl 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate as orange/red solid. Yield: 500 mg, 86%.

reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-6-fluoro-1,3-dihydro-2H-indol-2-one | 1.54 mmol, 500 mg | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC(=CC=C12)F)=O | C14H11BrFNO2
reactant | 4-methoxycarbonylphenylboronic acid | 1.85 mmol, 333 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | Na2CO3 | 6.2 mmol, 1M, 6.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(PPh3)2 | 0.077 mmol, 54 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 200 mL | O | H2O
product | methyl 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate | FC1=CC=C2/C(/C(NC2=C1)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C(=O)OC)C=C1 | C22H18FNO4
